US07576215B2
{4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}THIO)METHYL]PHENYL}ACETIC ACID
The title compound was prepared from 3-(4-carboxymethyl-benzylsulfanyl)phenylboronic acid and [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone according to the procedure of Example 1. MS (ES) m/z 541.9.

reactant | 3-(4-carboxymethyl-benzylsulfanyl)phenylboronic acid | C(=O)(O)CC1=CC=C(CSC=2C=C(C=CC2)B(O)O)C=C1 | C15H15BO4S
reactant | [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H9ClF3NO
product | {4-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}THIO)METHYL]PHENYL}ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)SCC1=CC=C(C=C1)CC(=O)O)C(F)(F)F | C32H24F3NO2S
